US08017792B2
Synthesis of 1-bromo-4-chloro-3-(2,4-dimethoxybenzyl)benzene
Synthesis was performed by a similar method as in Preparation Example 14 using 5-bromo-2-chlorobenzoic acid and 1,3-dimethoxybenzene.

reactant | 5-bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | 1,3-dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
product | 1-bromo-4-chloro-3-(2,4-dimethoxybenzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=C(C=C(C=C1)OC)OC | C15H14BrClO2
